US05120348
B. Preparation of 2-thiophenylmethyl 2-[4-(6-chloro-2-quinoxalinyloxy)phenoxyl]propanoate
To a 250 milliliter roundbottom flask equipped with stir bar, reflux condenser, connecting tube, and nitrogen atmosphere were added 4.3781 grams (0.0161 moles) of 2-(4-hydroxyphenoxy)-6-chloroquinoxaline, 4.000 grams (0.0161 moles) of 2-thiophenylmethyl 2-bromopropanoate, 4.4377 grams (0.0321 moles) of anhydrous potassium carbonate, and 100 milliters of acetonitrile.

reactant | 2-(4-hydroxyphenoxy)-6-chloroquinoxaline | 0.0161 moles, 4.3781 grams | OC1=CC=C(OC2=NC3=CC=C(C=C3N=C2)Cl)C=C1 | C14H9ClN2O2
reactant | 2-thiophenylmethyl 2-bromopropanoate | 0.0161 moles, 4.000 grams | BrC(C(=O)OCC=1SC=CC1)C | C8H9BrO2S
reactant | potassium carbonate | 0.0321 moles, 4.4377 grams | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-thiophenylmethyl 2-[4-(6-chloro-2-quinoxalinyloxy)phenoxyl]propanoate | ClC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)OCC=2SC=CC2)C)C=C1 | C22H17ClN2O4S
